US04600715
6-benzyloxycarbonyl-4-methyl-β-carboline-3-carboxylic acid ethyl ester;
6-butoxycarbonyl-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester, mp 150°-152° C. (ethanol/hexane); and

reactant | 6-butoxycarbonyl-4-methoxymethyl-β-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C(=O)OCCCC | C21H24N2O5
reactant | ethanol hexane | C(C)O.CCCCCC
product | 6-benzyloxycarbonyl-4-methyl-β-carboline-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C(=O)OCC1=CC=CC=C1 | C23H20N2O4
